US05030653
Preparation of N-[2,6-bis(1-methylethyl)phenyl]-N'-(9H-fluoren-9-ylmethyl)urea
To 3.88 g (0.02 mol of 9-fluorenemethyl amine in 100 ml of ethyl acetate was added, in one portion, 4.06 g (0.02 mol) of 2,6-diisopropylphenyl isocyanate in 100 ml of ethyl acetate.

reactant | 9-fluorenemethyl amine | 0.02 mol | C1=CC=CC=2C3=CC=CC=C3C(C12)CN | C14H13N
reactant | 2,6-diisopropylphenyl isocyanate | 0.02 mol, 4.06 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-[2,6-bis(1-methylethyl)phenyl]-N'-(9H-fluoren-9-ylmethyl)urea | CC(C)C1=C(C(=CC=C1)C(C)C)NC(=O)NCC1C2=CC=CC=C2C=2C=CC=CC12 | C27H30N2O
